US06747023B1
Methyl 4-(2-methylpyridin-4-yl)benzoate hydrochloride
In methanol (100 ml), 4-(2-methylpyridin-4-yl)benzoic acid hydrochloride (5.00 g) was dissolved. To the resulting solution, thionyl chloride (1.73 ml) was added dropwise, followed by heating under reflux for 3.5 hours. The reaction mixture was distilled to remove the solvent and pale brown crystals thus precipitated were washed with ethyl acetate, whereby the title compound (4.70 g, 89%) was obtained.

reactant | 4-(2-methylpyridin-4-yl)benzoic acid hydrochloride | 5.00 g | Cl.CC1=NC=CC(=C1)C1=CC=C(C(=O)O)C=C1
reactant | thionyl chloride | 1.73 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 4-(2-methylpyridin-4-yl)benzoate hydrochloride | Cl.CC1=NC=CC(=C1)C1=CC=C(C(=O)OC)C=C1 | InChI=1S/C14H13NO2.ClH/c1-10-9-13(7-8-15-10)11-3-5-12(6-4-11)14(16)17-2;/h3-9H,1-2H3;1H
